US05364871
Bromine (1.9 ml) was added dropwise to a mixture of 2-acetyl-6-acetylaminopyridine (6.6 g) and 30 wt % hydrogenbromide-acetic acid solution (7.4 ml) in acetic acid (66 ml) at ambient temperature under stirring and the mixture was stirred at 50° C. for 1.5 hours. The reaction mixture was added to a mixture of ethyl acetate and water and the mixture was adjusted to pH 8 with potassium carbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated to give 2-acetylamino-6-bromoacetylpyridine (8.57 g).

reactant | Bromine | 1.9 ml | BrBr | Br2
reactant | 2-acetyl-6-acetylaminopyridine | 6.6 g | C(C)(=O)C1=NC(=CC=C1)NC(C)=O | C9H10N2O2
reactant | hydrogenbromide acetic acid | 7.4 ml | Br.C(C)(=O)O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 66 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-acetylamino-6-bromoacetylpyridine | 8.57 g | C(C)(=O)NC1=NC(=CC=C1)C(CBr)=O | C9H9BrN2O2
